US07273882B2
Step G1. To an ice-water-cooled and stirred solution of 2-amino-5-bromo-3-chlorotoluene (12 g, 54 mmol) in a mixture of 100 mL of acetic acid, 43 mL of H2O and 11.5 mL of concentrated HCl was added dropwise a solution of NaNO2 (4.48 g, 65 mmol) in 15 mL of H2O. The reaction mixture was stirred for 30 min and was then added to an 112 mL solution of 50% H3PO2 cooled at 0° C. After being stirred for 6 h at 0° C., the reaction mixture was allowed to stand at room temperature overnight. The solid was filtered and washed with water, then dried in vacuum. 3-Chloro-5-bromo-toluene (9 g, 81%) was obtained as brown solid. Crystals. 1H NMR (CDCl3): δ 2.31 (s, 3H), 7.10 (s, 1H), 7.21 (s, 1H), 7.31 (s, 1H).

reactant | 2-amino-5-bromo-3-chlorotoluene | 54 mmol, 12 g | NC1=C(C=C(C=C1Cl)Br)C | C7H7BrClN
reactant | HCl | 11.5 mL | Cl | ClH
reactant | NaNO2 | 65 mmol, 4.48 g | N(=O)[O-].[Na+]
reactant | H3PO2 | O[PH2]=O | H3O2P
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 15 mL | O | H2O
solvent | H2O | 43 mL | O | H2O
product | 3-Chloro-5-bromo-toluene | 9 g, 81% | ClC=1C=C(C=C(C1)Br)C | C7H6BrCl
